US09227972B2
Step B: (S)-3-(1,1-Difluoro-2-hydroxyethyl)-1′-((2-(trimethylsilyl)ethoxy)methyl)-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
To a solution of (S)-ethyl 2,2-difluoro-2-(2′-oxo-1′-((2-(trimethylsilyl)ethoxy)methyl)-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-3-yl)acetate (0.542 g, 1.11 mmol) in MeOH (10 mL) at ambient temperature was added calcium chloride (0.184 g, 1.66 mmol) and sodium borohydride (0.128 g, 3.32 mmol). After stirring at ambient temperature for 24 h, the reaction was quenched with a saturated solution of sodium chloride (5 mL), partitioned between water (20 mL) and EtOAc (100 mL). The organic layer was removed and the aqueous phase was extracted further with EtOAc (30 mL). The combined organic extracts were washed with brine, then dried over sodium sulfate, filtered, and concentrated to dryness in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of CH2Cl2:MeOH—100:0 to 93:7, to give the title compound. MS: m/z=448.1 (M+1).

reactant | (S)-ethyl 2,2-difluoro-2-(2′-oxo-1′-((2-(trimethylsilyl)ethoxy)methyl)-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-3-yl)acetate | 1.11 mmol, 0.542 g | FC(C(=O)OCC)(C=1C=C2C(=NC1)C[C@@]1(C(N(C3=NC=CC=C31)COCC[Si](C)(C)C)=O)C2)F | C24H29F2N3O4Si
reactant | calcium chloride | 1.66 mmol, 0.184 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 3.32 mmol, 0.128 g | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | (S)-3-(1,1-Difluoro-2-hydroxyethyl)-1′-((2-(trimethylsilyl)ethoxy)methyl)-5,7-dihydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | FC(CO)(F)C=1C=C2C(=NC1)C[C@@]1(C(N(C3=NC=CC=C31)COCC[Si](C)(C)C)=O)C2 | C22H27F2N3O3Si
